US07932282B2
A mixture of 3-methyl-1-(6-methyl-3-pyridinyl)-2-oxo-4-imidazolidinecarboxylic acid TFA salt (175 mg, 0.5 mmol), 1-hydroxybenzotriazole hydrate (115 mg, 0.75 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (144 mg, 0.75 mmol) and N-ethyl morpholine (0.319 ml, 2.5 mmol) in dichloromethane (8 ml) was stirred at room temperature for 10 minutes. A solution of {[2-chloro-3-(trifluoromethyl)phenyl]methyl}amine (105 mg, 0.5 mmol) in dichloromethane (2 ml) was added and the reaction stirred at room temperature for 4 hours. The mixture was partitioned between dichloromethane and saturated sodium hydrogen carbonate solution. The organic phase was separated, washed with water and brine, dried and evaporated. The residue was purified by silica gel chromatography eluting with 0-10% methanol in dichloromethane to give N-{[2-chloro-3-(trifluoromethyl)phenyl]methyl}-3-methyl-1-(6-methyl-3-pyridinyl)-2-oxo-4-imidazolidinecarboxamide (95 mg, 44%). LC/MS [M+H]+=427, retention time=1.98 minutes.

reactant | 3-methyl-1-(6-methyl-3-pyridinyl)-2-oxo-4-imidazolidinecarboxylic acid TFA salt | 0.5 mmol, 175 mg | OC(=O)C(F)(F)F.CN1C(N(CC1C(=O)O)C=1C=NC(=CC1)C)=O
reactant | 1-hydroxybenzotriazole hydrate | 0.75 mmol, 115 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.75 mmol, 144 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | N-ethyl morpholine | 2.5 mmol, 0.319 ml | C(C)N1CCOCC1 | C6H13NO
reactant | {[2-chloro-3-(trifluoromethyl)phenyl]methyl}amine | 0.5 mmol, 105 mg | ClC1=C(C=CC=C1C(F)(F)F)CN | C8H7ClF3N
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N-{[2-chloro-3-(trifluoromethyl)phenyl]methyl}-3-methyl-1-(6-methyl-3-pyridinyl)-2-oxo-4-imidazolidinecarboxamide | 95 mg, 44% | ClC1=C(C=CC=C1C(F)(F)F)CNC(=O)C1N(C(N(C1)C=1C=NC(=CC1)C)=O)C | C19H18ClF3N4O2
